US09353086B2
3-(1,2,3,4-Tetrahydroisoquinolin-2-yl)propyl methanesulfonate
3-Bromo-1-propanol (100 mg, 0.72 mmol), K2CO3 (249 mg, 1.80 mmol) and 1,2,3,4-tetrahydrisoquinoline (95.8 mg, 0.72 mmol) were dissolved in MeCN (2 mL) and the reaction mixture was heated at 60° C. for 18 h. The reaction mixture was filtered and concentrated in vacuo. The residue was dissolved in DCM (10 mL) and methanesulphonyl chloride (82.4 mg, 0.72 mmol) and Et3N (87.4 mg, 0.86 mmol) were added. The reaction mixture was stirred for 1 h, diluted with DCM (20 mL), washed with sat aq NaHCO3 (20 mL), dried (MgSO4) and concentrated in vacuo to give the crude title compound (72.2 mg) as a colourless gum. LCMS (ES+): 270.3 [MH]+.

reactant | 3-Bromo-1-propanol | 0.72 mmol, 100 mg | BrCCCO | C3H7BrO
reactant | K2CO3 | 1.80 mmol, 249 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | methanesulphonyl chloride | 0.72 mmol, 82.4 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | Et3N | 0.86 mmol, 87.4 mg | CCN(CC)CC | C6H15N
reactant | MeCN | 2 mL | CC#N | C2H3N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-(1,2,3,4-Tetrahydroisoquinolin-2-yl)propyl methanesulfonate | 72.2 mg | CS(=O)(=O)OCCCN1CC2=CC=CC=C2CC1 | C13H19NO3S
